US07435837B2
Treatment of (±)-(5-chloro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.55 g, 1.33 mmol) with sodium azide (0.345 g, 5.31 mmol) generally according to the procedure described for Intermediate 98 provided 0.35 g of (±)-2-(azidomethyl)-5-chloro-7-phenyl-2,3-dihydro-1-benzofuran as a colorless oil. Treatment of the azide with sulfided platinum on carbon (90 mg, 5 wt. %) generally according to the procedure described for Example 1 provided 0.14 g (40%) of (±)-1-(5-chloro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp 258° C. (dec); Anal. calcd. for C15H14ClNOHCl: C, 60.83; H, 5.1; N, 4.73. Found: C, 60.13; H, 4.95; N, 4.6.

reactant | (±)-(5-chloro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.33 mmol, 0.55 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CC=CC=C2)Cl | C22H19ClO4S
reactant | sodium azide | 5.31 mmol, 0.345 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-5-chloro-7-phenyl-2,3-dihydro-1-benzofuran | 0.35 g | N(=[N+]=[N-])CC1OC2=C(C1)C=C(C=C2C2=CC=CC=C2)Cl | C15H12ClN3O
